US07465731B2
1N-NaOH (4.7 mL) was added to the solution of (2E)-N-hydroxy-3-(5-{[(3R)-1-(2-phenylethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylamide dihydrochloride (1.0 g) in water (20 mL) under ice-cooling and the mixture was stirred at 5-10 deg for 5 hr. The isolated precipitate was collected by filtration to give (2E)-N-hydroxy-3-(5-{[(3R)-1-(2-phenylethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylamide (0.71 g).

reactant | NaOH | 4.7 mL | [OH-].[Na+]
reactant | (2E)-N-hydroxy-3-(5-{[(3R)-1-(2-phenylethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylamide dihydrochloride | 1.0 g | Cl.Cl.ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CC1)CCC1=CC=CC=C1)=O
solvent | water | 20 mL | O | H2O
product | (2E)-N-hydroxy-3-(5-{[(3R)-1-(2-phenylethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylamide | 0.71 g | ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CC1)CCC1=CC=CC=C1)=O | C19H23N5O2
